US08183246B2
(+/−)-6-{[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid methyl ester
Put 717 mg (4.48 mmol) (+/−)-6-hydroxyheptanoic acid methyl ester under argon in 10 ml THF and cool to 0° C. Add 2.25 ml (4.48 mmol) of a 2 M solution of phosphazene base P2-tert.-butyl in THF and stir for a further 10 min at RT. Then cool to 0° C. again. Add 1.0 g (2.99 mmol) 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine and continue stirring overnight at RT. Dilute with water, acidify with 10% aqueous citric acid solution and extract twice with ethyl acetate. Combine the ethyl acetate phases and wash once with satd. sodium chloride solution. Dry over magnesium sulphate, concentrate by evaporation and purify the residue by column chromatography on silica gel (solvent: cyclohexane/ethyl acetate 9:1). 640 mg (46.7% of theor.) of the target compound is obtained.

reactant | (+/−)-6-hydroxyheptanoic acid methyl ester | 4.48 mmol, 717 mg | COC(CCCCC(C)O)=O | C8H16O3
reactant | 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine | 2.99 mmol, 1.0 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2 | C20H15ClN2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (+/−)-6-{[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid methyl ester | COC(CCCCC(C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2)=O | C28H30N2O4
